US03931153
4-(3,4,5-Trimethoxybenzoylamino)-cinnamic acid was prepared as described in Example 3 from 5 g (0.0271 mol) of p-aminocinnamic acid hydrochloride and 3,4,5-trimethoxybenzoyl chloride.

reactant | p-aminocinnamic acid hydrochloride | 0.0271 mol, 5 g | Cl.NC1=CC=C(C=CC(=O)O)C=C1
reactant | 3,4,5-trimethoxybenzoyl chloride | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
product | 4-(3,4,5-Trimethoxybenzoylamino)-cinnamic acid | COC=1C=C(C(=O)NC2=CC=C(C=CC(=O)O)C=C2)C=C(C1OC)OC | C19H19NO6
